US09371298B2
The 5-Methanesulfonyl-3-methoxycarbonyloxy-isothiazole-4-carboxylic acid methyl ester/dichloromethane extracts were combined, then displaced with methanol (150 mL, 15 volumes). A solution of 98% sulfuric acid (50 mL, 5 volumes) in water (100 mL, 10 volumes) was added and the mixture was heated at 65° C. for 6 hours. The foamy slurry became a clear solution with some insoluble white solids over time. The mixture was cooled to 25° C. and stirred for 16 hours. Most of the methanol was removed under vacuum. The aqueous residue was extracted once with 100 mL dichloromethane, then twice with 50 mL dichloromethane. The combined dichloromethane extracts were dried over anhydrous magnesium sulfate and filtered. The dichloromethane was displaced with hexanes (100 mL, 10 volumes) and stirred at 25° C. until solids formed. The solids were filtered, and the filter cake was rinsed with hexane and dried to give 9.27 g of 3-Hydroxy-5-methanesulfonyl-isothiazole-4-carboxylic acid methyl ester (80% yield). 1H NMR (DMSO-d6): δ 13.07 (s, 1H); 3.83 (s, 3H); 3.55 (s, 3H). MS (API-ES pos): 238 (M+H)+; 206 (M−MeO)+, base.

reactant | 5-Methanesulfonyl-3-methoxycarbonyloxy-isothiazole-4-carboxylic acid methyl ester dichloromethane | COC(=O)C=1C(=NSC1S(=O)(=O)C)OC(=O)OC.ClCCl
reactant | methanol | 150 mL | CO | CH4O
reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 mL | O | H2O
product | 3-Hydroxy-5-methanesulfonyl-isothiazole-4-carboxylic acid methyl ester | 9.27 g, 80% yield | COC(=O)C=1C(=NSC1S(=O)(=O)C)O | C6H7NO5S2
